US08877760B2
A solution of 3,5-dichloropyrazine-2-carbonitrile (158 mg, 0.908 mmol), (R)-2-amino-3-cyclopropylpropanamide hydrochloride (150 mg, 0.911 mmol) and DIEA (0.400 mL, 2.30 mmol) in NMP (5 mL) was stirred at room temperature for 20 h. Water and EtOAc were added. Organic phase was separated, dried over Na2SO4, concentrated in vacuo to give (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-cyclopropylpropanamide (240 mg).

reactant | 3,5-dichloropyrazine-2-carbonitrile | 0.908 mmol, 158 mg | ClC=1C(=NC=C(N1)Cl)C#N | C5HCl2N3
reactant | (R)-2-amino-3-cyclopropylpropanamide hydrochloride | 0.911 mmol, 150 mg | Cl.N[C@@H](C(=O)N)CC1CC1
reactant | DIEA | 2.30 mmol, 0.400 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(6-chloro-5-cyanopyrazin-2-ylamino)-3-cyclopropylpropanamide | 240 mg | ClC1=C(N=CC(=N1)N[C@@H](C(=O)N)CC1CC1)C#N | C11H12ClN5O
